* C:\IIT_KGP_IC_Design\Active_Load_Diff_Amp\active_load_diff_amp.asc
* Generated by LTspice 24.1.8 for Windows.
M1 N001 vin+ N002 0 n_65 l=200n w=20u
M2 vout vin- N002 0 n_65 l=200n w=20u
M3 N002 N003 0 0 n_65 l=500n w=30u
M4 N003 N003 0 0 n_65 l=500n w=30u
I1 vdd N003 5µ
V1 vdd 0 1.2
M5 N001 N001 vdd vdd p_65 l=300n w=10u
M6 vout N001 vdd vdd p_65 l=300n w=10u
V2 vin- 0 600m
V3 vin+ 0 SINE(600m 1m 100k) AC 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\srija\AppData\Local\LTspice\lib\cmp\standard.mos
.include 65nm_bulk.mos
.tran 100u
.backanno
.end
