* C:\IIT_KGP_IC_Design\FC_DiffAmp_CMFB\FC_DiffAmp_CMFB.asc
* Generated by LTspice 24.1.8 for Windows.
M1 N002 vin+ N010 0 n_65 l=200n w=80u
M2 N007 vin- N010 0 n_65 l=200n w=80u
V1 vdd 0 1.2
M3 N010 vb3 0 0 n_65 l=200n w=5u
M4 N002 vb4 vdd vdd p_65 l=200n w=10u
M5 vout- vb5 N002 vdd p_65 l=200n w=10u
M6 vout- vb6 N015 0 n_65 l=200n w=10u
M7 N015 vb7 0 0 n_65 l=200n w=10u
M8 N007 vb4 vdd vdd p_65 l=200n w=10u
M9 vout+ vb5 N007 vdd p_65 l=200n w=10u
M10 vout+ vb6 N014 0 n_65 l=200n w=10u
M11 N014 vb7 0 0 n_65 l=200n w=10u
V2 vin+ 0 {vcm}
V3 vin- 0 SINE({vcm} 1m 100k) AC 1
I2 vb4 0 20µ
M13 vb4 vb5 N003 vdd p_65 l=200n w=20u
M14 N003 vb4 vdd vdd p_65 l=200n w=10u
M15 vb7 vb5 N004 vdd p_65 l=200n w=20u
M16 N004 vb4 vdd vdd p_65 l=200n w=10u
M17 vb7 vb6 N013 0 n_65 l=200n w=20u
M18 N013 vb7 0 0 n_65 l=200n w=20u
M19 vb5 vb5 vdd vdd p_65 l=200n w=5u
I3 vb5 0 20µ
M20 vb6 vb6 0 0 n_65 l=200n w=5u
M21 vb6 vb5 N005 vdd p_65 l=200n w=20u
M22 N005 vb4 vdd vdd p_65 l=200n w=10u
V4 vref 0 600m
M23 N006 N001 vdd vdd p_65 l=300n w=40u
M24 N001 N001 vdd vdd p_65 l=300n w=10u
I4 N001 0 20µ
M25 vb3 vref N006 vdd p_65 l=300n w=10u
M26 N011 vout- N006 vdd p_65 l=300n w=10u
M27 N011 vout+ N006 vdd p_65 l=300n w=10u
M28 vb3 vb3 0 0 n_65 l=200n w=5u
M29 N011 N011 0 0 n_65 l=200n w=5u
V5 NC_01 0 397m AC 1
M12 NC_02 N008 N009 NC_03 PMOS
M30 NC_04 NC_05 NC_06 NC_07 PMOS
M31 N009 N012 0 0 NMOS
M32 NC_08 NC_09 0 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\srija\AppData\Local\LTspice\lib\cmp\standard.mos
* Folded Cascode (Stage 1)
.include 65nm_bulk.mos
* Biasing Circuit
.param vcm=600m
.options logopinfo
* Gain: 46dB
* Error Amplifier (CMFB)
.ac dec 10 1 10g
.backanno
.end
