* C:\IIT_KGP_IC_Design\Folded_Cascode\Folded_Cascode.asc
* Generated by LTspice 24.1.8 for Windows.
V1 vdd 0 1.2
V2 vin 0 SINE(250m 1m 100k) AC 1
M1 N001 vin 0 0 n_65 l=180n w=10u
M4 vout vb4 N001 N002 p_65 l=200n w=10u
M5 N001 vb5 vdd vdd p_65 l=200n w=10u
M2 vout vb2 N003 0 n_65 l=200n w=5u
M3 N003 vb3 0 0 n_65 l=200n w=5u
I1 vb4 0 5µ
M6 vb5 vb5 vdd vdd p_65 l=200n w=10u
M7 vb4 vb4 vb5 vdd p_65 l=200n w=20u
M8 vb3 vb3 0 0 n_65 l=200n w=10u
M9 vb2 vb2 vb3 0 n_65 l=200n w=10u
I2 vdd vb2 5µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\srija\AppData\Local\LTspice\lib\cmp\standard.mos
.include 65nm_bulk.mos
* Folded Cascode, NMOS Input
* PMOS Current Mirror biasing
* NMOS Current Mirror biasing
.options logopinfo
.tran 100u
.backanno
.end
