* C:\IIT_KGP_IC_Design\Two-Stage Diff Amp\two_stg_diff_amp.asc
* Generated by LTspice 24.1.8 for Windows.
M1 N002 vin+ N006 0 n_65 l=180n w=10u
M2 N003 vin- N006 0 n_65 l=180n w=10u
M3 N006 vgn1 0 0 n_65 l=300n w=10u
M4 vgn1 vgn1 0 0 n_65 l=300n w=10u
I1 vdd vgn1 5µ
M5 N003 N001 vdd vdd p_65 l=200n w=5u
M6 N002 N001 vdd vdd p_65 l=200n w=5u
M7 N005 vgn1 0 0 n_65 l=300n w=5u
M8 N001 N001 vdd vdd p_65 l=200n w=5u
V1 vdd 0 1.2
V2 vin+ 0 600m
V3 vin- 0 600m AC 1
M9 vout+ N003 vdd vdd p_65 l=100n w=5u
M12 vout+ vgn1 0 0 n_65 l=300n w=30u
M13 N001 N004 N005 0 n_65 l=180n w=10u
R1 vin+ N004 10k
M10 vout- N002 vdd vdd p_65 l=100n w=5u
M11 vout- vgn1 0 0 n_65 l=300n w=30u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\srija\AppData\Local\LTspice\lib\cmp\standard.mos
.include 65nm_bulk.mos
.options logopinfo
.ac dec 10 1 10g
.backanno
.end
